US07465726B2
4-Nitro-1-phenethyl-1H-pyrazole
To a solution of 4-nitro-1H-pyrazole (226 mg, 2.0 mmol) in N,N-dimethylformamide (3 mL) were added potassium carbonate (0.33 g, 2.4 mmol) and 1-bromo-2-phenylethane (0.44 g, 2.4 mmol). The resulting mixture was stirred at rt overnight. TLC showed the reaction was complete. The mixture was diluted with EtOAc (40 mL), then washed with water (2×20 mL), brine (20 mL), and dried over anhydrous sodium sulfate. The crude material was purified by chromatography on silica gel, eluting with Hex:EtOAc=80:20→70:30 to give the title compound as a white solid. 1H NMR (CDCl3, 400 MHz): δ=3.20 (t, J=7.0 Hz, 2H), 4.37 (t, J=7.0 Hz, 2H), 7.04-7.07 (m, 2H), 7.25-7.32 (m, 3H), 7.81 (s, 1H), 8.09 (s, 1H).

reactant | 4-nitro-1H-pyrazole | 2.0 mmol, 226 mg | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | potassium carbonate | 2.4 mmol, 0.33 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-phenylethane | 2.4 mmol, 0.44 g | BrCCC1=CC=CC=C1 | C8H9Br
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | 4-Nitro-1-phenethyl-1H-pyrazole | [N+](=O)([O-])C=1C=NN(C1)CCC1=CC=CC=C1 | C11H11N3O2
